datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.CC1(C)C[C:71](=[O:72])[C:10](=[I:11]C2=CC=CC=C2)[C:91](=[O:92])C1>>CC1(C)C[C:71](=[O:72])[C:10]([I+:11]C2=CC=CC=C2)([CH:20]([C:31]2=[CH:36][C:35]3=[C:34]4N(CCC[C:33]4=[CH:32]2)CCC3)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:91](=[O:92])C1 10,11=10,20"
"C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Si:73](C)(C)C>>C1C[C:33]2=[C:34](O1)[CH:35]=[CH:36][C:31]([CH:20]([H:10])[C:41]1=[CH:42][C:43]3=[C:44](OCC3)[CH:45]=[CH:46]1)=[CH:32]2.C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Si:73](C)(C)C 10,11=10,20"
"C[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[C:13]1=[O+:14][CH:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34]([O:37]C)[CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14"
"CC[O:82][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72].C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>CC[O:82][C:71]([CH:10]([N+:11](=[O:12])[O-:62])[CH2:20][CH:21]=[C:22]([O-:23])[N:33](C)C)=[O:72] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"N#CC1=CC=C([N+:61]#[C-:10])C=C1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>N#CC1=CC=C([N+:61]#[C:10][CH:20]2[C:21](=[N+:22]([O-])[O-:23])[C:32]3=NO[N+]([O-])=[C:33]3[C:34]3=[N:35]O[N+:42]([O-])=[C:41]23)C=C1 10=20;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.C[C:84]1=[CH:83][CH:82]=[C:81]([CH-:10][S:61](C(F)(F)F)(=[O:62])=[O:72])[CH:92]=[CH:93]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10]([S:61](C(F)(F)F)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[C:84](C)[CH:93]=[CH:92]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"CC[O:62]/[C:11](=[CH:10]/[C:71]#[N:72])[O-:12].O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>CC[O:62][C:11]([CH:10]([CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.C[Si:62](C)([C:11](C1=CC=CC=C1)=[CH2:10])[Si:63](C)(C)C>>CC(C)(C1=CC=CC=C1)[O-:21].C[Si:62](C)([C+:11](C1=CC=CC=C1)[CH2:10][S:20]C(F)(F)F)[Si:63](C)(C)C 10,11=10,20;20,21=21"
"CC(C)(C)[O:94][C:83]([N:12]1[CH:11]=[C:10]([B-:72](F)(F)F)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84].CC[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC)=[O:23]>>CC[O:33][C:22](=[N:21][N:20]([C:10]1([B-:72](F)(F)F)[CH:11]=[N+:12]([C:83](=[O:84])[O:94]C(C)(C)C)[C:61]2=[C:62]1[CH:63]=[CH:64][CH:65]=[CH:66]2)[C:41](=[O:42])[O:43]CC)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:61]/[C:11](=[C:10](\C1CCCCC1)[C:72](=[O:73])[O:83]CC)[O-:12].O=[N+]([O-])C1=CC=C([N:31]=[C:20]=[S:21])C=C1>>CC[O:61][C:11]([C:10](C1CCCCC1)([C:20]([S-:21])=[N:31]C1=CC=C([N+](=O)[O-])C=C1)[C:72](=[O:73])[O:83]CC)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.C[C:61]1=[N:10][CH:64]=[C:63](C)[NH:62]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([N+:10]2=[C:61](C)[NH:62][C:63](C)=[CH:64]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([P:10](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25]>>C[C:21]([CH:20]([P+:10](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:21]1=[CH:20]CCC[C:22]1=[O:23].C[C:61]([CH:10]=[P:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:62]>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[CH:10]([P+:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:61](C)=[O:62] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.C[Si:71](C)(C)[CH-:10][N+:61]#[N:62]>>C[Si:71](C)(C)[CH:10]([CH2:20]C1C(C2=CC=CC=C2)[Pd-2:21]1([P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)[P+](OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1)[N+:61]#[N:62] 10=20;20,21=21"
"CCCCCC[SiH2:11][H:10].FC(F)(F)[S:20][N:21]1[C:22](=[O:23])CC[C:32]1=[O:33]>>C1C[C:32](=[O:33])[N:21]=[C:22]1[O-:23].CCCCCC[SiH2+:11].FC(F)(F)[S:20][H:10] 10,11=10,20;20,21=21,22;22,23=23"
